US03952006
To a solution of 5.6 g of 2-chloromethyl-1-(3o-chlorobenzoyl-5-ethyl-2-thienyl)imidazole in 50 ml of ethanol is added 4 g of diethylamine, and the mixture is stirred at 50°C for 2 hours. After allowing the mixture to stand overnight, the solvent is distilled off under reduced pressure. The residue to which a water is added is extracted with ethyl acetate. The extract is washed with water and dried over anhydrous magnesium sulfate. The solvent is distilled off under reduced pressure. The residual brown oil is chromatographed on 150 g of 70 - 325 mesh silica gel with chloroform as eluent. The eluates are combined and concentrated in vacuo to give 2-diethylaminomethyl-1-(3-o-chlorobenzoyl-5-ethyl-2-thienyl)imidazole as yellowish transparent oil (nD21 = 1.5813).

reactant | 2-chloromethyl-1-(3o-chlorobenzoyl-5-ethyl-2-thienyl)imidazole | 5.6 g | ClCC=1N(C=CN1)C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC | C17H14Cl2N2OS
reactant | diethylamine | 4 g | C(C)NCC | C4H11N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-diethylaminomethyl-1-(3-o-chlorobenzoyl-5-ethyl-2-thienyl)imidazole | C(C)N(CC)CC=1N(C=CN1)C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC | C21H24ClN3OS
